US04925939
A mixture of 4-ethoxycarbonyl-1-(4-methoxyphenyl)pyrrolidine-3-one (10.53 g, 0.04 mol) in 6N hydrochloric acid (120 mL) is heated at 100° C. (bath temperature) until evolution of carbon dioxide ceases (about 1 hour). The mixture is cooled in an ice-bath, neutralized with potassium carbonate, and then is extracted with diethyl ether (4×200 mL). The combined extracts are washed with water, dried over sodium sulfate, concentrated, and then the residue is crystallized from diethyl ether-n-hexane to give 1-(4-methoxyphenyl)pyrrolidine-3-one (5.68 g, 67%), mp 104°-105° C. 1H NMR (CDCl3) d 2.68 (2H, t, 5-CH2), 3.61 (2H, t, 4-CH2), 3.63 (2H, s, 2-CH2), 3.77 (3H, s, OMe), 6.63 and 6.89 (each 2H, d, Ph).

reactant | 4-ethoxycarbonyl-1-(4-methoxyphenyl)pyrrolidine-3-one | 0.04 mol, 10.53 g | C(C)OC(=O)C1C(CN(C1)C1=CC=C(C=C1)OC)=O | C14H17NO4
reactant | carbon dioxide | C(=O)=O | CO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 6N, 120 mL | Cl | ClH
product | 1-(4-methoxyphenyl)pyrrolidine-3-one | 5.68 g, 67% | COC1=CC=C(C=C1)N1CC(CC1)=O | C11H13NO2
